US07378409B2
A mixture of 3-t-butylhydroxybenzoic acid (2.00 g, 10.3 mmol), benzyl bromide (6.12 mL, 52.5 mmol), KOH (3.47 g, 61.8 mmol), EtOH (60 mL), and water (6 mL) was heated at 100° C. for 48 h under nitrogen atmosphere. The reaction mixture was concentrated in vacuo and the residue was diluted with EtOH (100 mL) and water (100 mL), then stirred with KOH (3.47 g, 61.8 mmol) at 100° C. for 2 h. The reaction mixture was cooled to room temperature and concentrated in vacuo. The residue was diluted with water (400 mL) and extracted with EtOAc (200 mL). The aqueous layer was acidified with 1 N HCl (10 mL) and extracted with EtOAc (2×200 mL). The combined organic layers were washed with brine (50 mL), dried (Na2SO4), and concentrated in vacuo to provide 4-(benzyloxy)-3-tert-butylbenzoic acid (2.36 g, 81%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 10.80 (br s, 1H), 8.08 (s, 1H), 8.07-7.94 (m, 1H), 7.45-7.34 (m, 5H), 6.99-6.96 (m, 1H), 5.20 (s, 2H), 1.42 (s, 9H); MS found: (M+H)+=285.

reactant | 3-t-butylhydroxybenzoic acid | 10.3 mmol, 2.00 g | C(C)(C)(C)C=1C(=C(C(=O)O)C=CC1)O | C11H14O3
reactant | benzyl bromide | 52.5 mmol, 6.12 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | KOH | 61.8 mmol, 3.47 g | [OH-].[K+]
reactant | EtOH | 60 mL | CCO | C2H6O
reactant | KOH | 61.8 mmol, 3.47 g | [OH-].[K+]
solvent | water | 6 mL | O | H2O
product | 4-(benzyloxy)-3-tert-butylbenzoic acid | 2.36 g, 81% | C(C1=CC=CC=C1)OC1=C(C=C(C(=O)O)C=C1)C(C)(C)C | C18H20O3
